US08134004B2
Step 17A: 2-[(diphenylmethylene)amino]-2-quinolin-4-ylethyl Pivalate
A Stirred mixture of 1-quinolin-4-ylmethanamine (142 mg, 0.90 mmol, CHEMBRIDGE) and benzophenone imine (163 mg, 0.90 mmol) was heated at 50° C. for 2 hours. The resultant product was dissolved in dichloromethane (4 ml) and added to a solution of chloromethyl pivalate (136 mg, 0.90 mmol) and tetrabutylammonium bromide (150 mg, 0.465 mmol). 50% NaOHaq (0.9 ml) was added to the reaction mixture at 0° C. After the mixture was stirred at 0° C. for 1 hour, the reaction was diluted with dichloromethane (30 ml) and water (30 ml). The organic layer was separated, dried over Na2SO4, concentrated in vacuo and purified through silica gel column chromatography eluting with Hexane/EtOAc (3:1 to 2:1) to furnish the title compound (142 mg, 36% yield) as colorless oil. MS (ESI) m/z 437 (M+H)+.

reactant | 1-quinolin-4-ylmethanamine | 0.90 mmol, 142 mg | N1=CC=C(C2=CC=CC=C12)CN | C10H10N2
reactant | benzophenone imine | 0.90 mmol, 163 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | chloromethyl pivalate | 0.90 mmol, 136 mg | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | tetrabutylammonium bromide | 0.465 mmol, 150 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | 2-[(diphenylmethylene)amino]-2-quinolin-4-ylethyl Pivalate | 142 mg, 36% yield | C(C(C)(C)C)(=O)OCC(C1=CC=NC2=CC=CC=C12)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C29H28N2O2
